US08476286B2
2-Isopropoxy-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline
11 mg (0.44 mmol) NaH is dissolved in 2 ml isopropanol and stirred for 2 h at rt. After that time 30 mg (0.088 mmol) 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline is added and the solution is stirred at 55° C. overnight. The reaction mixture is diluted with ethyl acetate and extracted with brine. The organic layer is dried and evaporated. After chromatography (hexane/ethyl acetate) the product is obtained as yellow oil.

reactant | NaH | 0.44 mmol, 11 mg | [H-].[Na+]
reactant | 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline | 0.088 mmol, 30 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OC)OC | C19H19ClN2O2
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Isopropoxy-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline | C(C)(C)OC1=NC2=CC(=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OC)OC | C22H26N2O3
